US04788195
N-(4-Methoxyphenyl)-4-(2-thienyl)-2-pyrimidinamine
A mixture of 10.9 g of 3-dimethylamino-1-(2-thienyl)-2-propen-1-one (U.S. Pat. No. 4,374,988) and 11.8 g of 4-methoxyphenylguanidine carbonate in 150 ml of isopropanol was heated at reflux for 48 hours. The solution was cooled, then filtered, giving 9.0 g of the desired product as yellow crystals, mp 158°-160° C.

reactant | 3-dimethylamino-1-(2-thienyl)-2-propen-1-one | 10.9 g | CN(C=CC(=O)C=1SC=CC1)C | C9H11NOS
reactant | 4-methoxyphenylguanidine carbonate | 11.8 g | C(O)(O)=O.COC1=CC=C(C=C1)NC(=N)N
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | N-(4-Methoxyphenyl)-4-(2-thienyl)-2-pyrimidinamine | 9.0 g | COC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1SC=CC1 | C15H13N3OS
